### PR TITLE
Task 57

### PR DESCRIPTION
**Pull request by pitmonticone**

### CODE REVIEW

File: Carleson/HardyLittlewood.lean [hunk 1]
```diff
@@ -72,6 +72,55 @@ theorem Vitali.exists_disjoint_subfamily_covering_enlargment_closedBall' {α ι}
     rcases A b ⟨rb.1, rb.2⟩ with ⟨c, cu, _⟩
     exact ⟨c, cu, by simp only [closedBall_eq_empty.2 h'a, empty_subset]⟩
 
+theorem Vitali.exists_disjoint_subfamily_covering_enlargment_closedBall'' {α ι} [MetricSpace α]
+    (t : Set ι) (x : ι → α) (r : ι → ℝ) (R : ℝ) (hr : ∀ a ∈ t, r a ≤ R) (τ : ℝ) (hτ : 3 < τ) :
+    ∃ u ⊆ t,
+      (u.PairwiseDisjoint fun a => closedBall (x a) (r a)) ∧
+        (∀ a ∈ t, ∃ b ∈ u, closedBall (x a) (r a) ⊆ closedBall (x b) (τ * r b)) ∧
```
Comment (fpvandoorn) [inline Carleson/HardyLittlewood.lean:79]: Please conclude `closedBall (x a) (r a) ⊆ ball (x b) (τ * r b)`? That will be nicer than this conjunction (you can always do this by doing the existing argument with a slightly smaller `τ`, but maybe there is a shorter way)

File: Carleson/HardyLittlewood.lean [hunk 2]
```diff
@@ -81,16 +130,31 @@ theorem Set.Countable.measure_biUnion_le_lintegral (h𝓑 : 𝓑.Countable) {l :
...
   calc
-    l * μ (⋃ i ∈ 𝓑, ball (c i) (r i)) ≤ l * μ (⋃ i ∈ B, ball (c i) (2 ^ 2 * r i)) := sorry
-    _ ≤ l * ∑' i : B, μ (ball (c i) (2 ^ 2 * r i)) := sorry
-    _ ≤ l * ∑' i : B, A ^ 2 * μ (ball (c i) (r i)) := sorry
-    _ = A ^ 2 * ∑' i : B, l * μ (ball (c i) (r i)) := sorry
-    _ ≤ A ^ 2 * ∑' i : B, ∫⁻ x in ball (c i) (r i), u x ∂μ := sorry
-    _ = A ^ 2 * ∫⁻ x in ⋃ i ∈ B, ball (c i) (r i), u x ∂μ := sorry -- does this exist in Mathlib?
-    _ ≤ A ^ 2 * ∫⁻ x, u x ∂μ := sorry
+    l * μ (⋃ i ∈ 𝓑, ball (c i) (r i)) ≤ l * μ (⋃ i ∈ B, ball (c i) (2 ^ 2 * r i)) := by
+      -- it was need to use the strongest thesis `Vitali.exists_disjoint_subfamily_covering_enlargment_closedBall''`
```
Comment (fpvandoorn) [inline Carleson/HardyLittlewood.lean:139]: alternatively, choose a smaller value than `2 ^ 2` here in the application (but I think it's nicer to generalize the lemma above)

**Comment by pitmonticone** [comment]
No problem at all, @fpvandoorn. It’s me who needs to apologise for not being able to find the time to work on this formalisation task.

I hope to find the time to claim a new task by mid-October.
